US07816558B2
Under ice-cooling, boron tribromide was added to a dichloromethane solution of ethyl 3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate, followed by stirring for 1 hour and then stirring at 40° C. for 3 hours to obtain ethyl 3-(3-cyano-4-hydroxyphenyl)isothiazole-5-carboxylate. AP: 297.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | ethyl 3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate | C(#N)C=1C=C(C=CC1OC)C1=NSC(=C1)C(=O)OCC | C14H12N2O3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(3-cyano-4-hydroxyphenyl)isothiazole-5-carboxylate | C(#N)C=1C=C(C=CC1O)C1=NSC(=C1)C(=O)OCC | C13H10N2O3S
